US04371644
ethylene glycol bis[3-(3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)-2-hydroxypropyl]ether (Compound No. 355)
A mixture of 8.6 g of 3-dodecyl-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 1.7 g of ethylene glycol bis(2,3-epoxypropyl)ether in 3 ml of octanol was heated to 180° C. for 30 hours. After completion of the reaction, the reaction mixture was dissolved in ethyl acetate and subjected to column chromatography through alumina eluted successively first with diethyl ether, second with a 10:1 by volume mixture of ethyl acetate and triethylamine, and lastly with methanol. The eluate eluted with the last solvent was separated and the solvent was removed therefrom by evaporation under reduced pressure, giving the desired Compound No. 355 in the form of white crystals melting at 74°-76° C.

reactant | 3-dodecyl-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 8.6 g | C(CCCCCCCCCCC)N1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O | C23H43N3O2
reactant | ethylene glycol bis(2,3-epoxypropyl)ether | 1.7 g | O1C(COCCOCC2CO2)C1 | C8H14O4
solvent | octanol | 3 ml | C(CCCCCCC)O | C8H18O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethylene glycol bis[3-(3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)-2-hydroxypropyl]ether | C(CCCCCCCCCCC)N1C(NC2(C1=O)CC(N(C(C2)(C)C)CC(COCCOCC(CN2C(CC1(C(N(C(N1)=O)CCCCCCCCCCCC)=O)CC2(C)C)(C)C)O)O)(C)C)=O | C54H100N6O8
